US05221676
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(4 -pyridinyl)-1-pyrrolidinyl]-8-(trifluoromethyl)-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-trifluoromethyl-3-quinolinecarboxylic acid (1.05 g, 3.5 mmol) and 4-(3-pyrrolidinyl) pyridine, a procedure analogous to that given in Example 1 provided the title compound (0.93 g, 58%) as a beige solid, mp 244°-245° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-trifluoromethyl-3-quinolinecarboxylic acid | 3.5 mmol, 1.05 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C(F)(F)F)F)F)=O)C(=O)O | C14H8F5NO3
reactant | 4-(3-pyrrolidinyl) pyridine | N1CC(CC1)C1=CC=NC=C1 | C9H12N2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(4 -pyridinyl)-1-pyrrolidinyl]-8-(trifluoromethyl)-3-quinolinecarboxylic acid | 0.93 g, 58% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C(F)(F)F)N1CC(CC1)C1=CC=NC=C1)F)=O)C(=O)O | C23H19F4N3O3
